US07888351B2
A) (S)-4-Carbamoyl-2-(cyclopropanecarbonyl-amino)-butyric acid
To (S)-2-Amino-4-carbamoyl-butyric acid (100 mg, 0.684 mmol) in water (16 mL) are added Na2CO3 (218 mg, 2.052 mmol) and a solution of cyclopropylcarboxylic acid (62.1 uL, 0.684 mmol) in tetrahydrofuran (8 mL). After stirring at rt during 2 h, ethyl acetate is added and the pH is decreased to 3 by addition of aqueous 1N HCl. The aqueous phase is evaporated, the residue is mixed with methanol and filtrated. The filtrate is evaporated to yield the title compound.

reactant | (S)-2-Amino-4-carbamoyl-butyric acid | 0.684 mmol, 100 mg | N[C@H](C(=O)O)CCC(N)=O | C5H10N2O3
reactant | Na2CO3 | 2.052 mmol, 218 mg | C(=O)([O-])[O-].[Na+].[Na+]
reactant | cyclopropylcarboxylic acid | 0.684 mmol, 62.1 uL | C1(CC1)C(=O)O | C4H6O2
reactant | HCl | 1N | Cl | ClH
solvent | water | 16 mL | O | H2O
solvent | tetrahydrofuran | 8 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (S)-4-Carbamoyl-2-(cyclopropanecarbonyl-amino)-butyric acid | C(N)(=O)CC[C@@H](C(=O)O)NC(=O)C1CC1 | C9H14N2O4
